US05496849
The (1R, 2R, 3aS, 8bR)-1-benzenesulfonamido-2-hydroxy-2,3,3a,8b-tetrahydro-1H-cyclopenta[b]benzofuran-5-yl acetate (448 mg), produced according to the process described above, was dissolved in methanol followed by the addition of 0.61N potassium hydroxide/methanol solution (1.9 ml) and stirring for 20 minutes at room temperature. The reaction mixture was added to a 5% aqueous solution of ammonium chloride and extracted with ethyl acetate (50 ml+30 ml×2). The organic layer was washed with saturated brine (30 ml) and concentrated after drying with anhydrous sodium sulfate. The residue was purified with column chromatography (silica gel: methylene chloride/methanol 20:1-7:1) to obtain (1R, 2R, 3aS, 8bR)-1-benzenesulfonamido-2-hydroxy-2,3,3a,8b-tetrahydro-1H-cyclopenta [b]benzofuran-5-ol (376 mg).

reactant | (1R, 2R, 3aS, 8bR)-1-benzenesulfonamido-2-hydroxy-2,3,3a,8b-tetrahydro-1H-cyclopenta[b]benzofuran-5-yl acetate | 448 mg | C(C)(=O)OC1=CC=CC=2[C@H]3[C@@H](OC21)C[C@H]([C@@H]3NS(=O)(=O)C3=CC=CC=C3)O | C19H19NO6S
reactant | potassium hydroxide methanol | 0.61N, 1.9 ml | [OH-].[K+].CO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | (1R, 2R, 3aS, 8bR)-1-benzenesulfonamido-2-hydroxy-2,3,3a,8b-tetrahydro-1H-cyclopenta [b]benzofuran-5-ol | 376 mg | C1(=CC=CC=C1)S(=O)(=O)N[C@H]1[C@@H](C[C@@H]2OC3=C([C@@H]21)C=CC=C3O)O | C17H17NO5S
